* size=1 inverter
.subckt inv_size_1 in out vdd vss
Xpfet out in vdd vdd pfet l=lg nfin=1
Xnfet out in vss vss nfet l=lg nfin=1
.ends inv_size_1

* size=4 inverter
.subckt inv_size_4 in out vdd vss
Xpfet out in vdd vdd pfet l=lg nfin=4
Xnfet out in vss vss nfet l=lg nfin=4
.ends inv_size_4

* size=8 inverter
.subckt inv_size_8 in out vdd vss
Xpfet out in vdd vdd pfet l=lg nfin=8
Xnfet out in vss vss nfet l=lg nfin=8
.ends inv_size_8

* customize size inverter
.subckt inv in out vdd vss size
Xpfet out in vdd vdd pfet l=lg nfin=size
Xnfet out in vss vss nfet l=lg nfin=size
.ends inv

* transmission gate
.subckt tg in out enable enable_n vdd vss 
Xpfet out enable_n in vdd pfet l=lg nfin=1
Xnfet out enable   in vss nfet l=lg nfin=1
.ends tg

* 2-input xor gate
.subckt xor in_1 in_2 out vdd vss
* Two-input NOR gate
Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
Xpfet_2 s      in_2 node_1 vdd pfet l=lg nfin=1
Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
* F = !(AB+S)
Xpfet_3 node_2 in_1 vdd    vdd pfet l=lg nfin=1
Xpfet_4 node_2 in_2 vdd    vdd pfet l=lg nfin=1
Xpfet_5 out    s    node_2 vdd pfet l=lg nfin=1
Xnfet_3 out    in_1 node_3 vss nfet l=lg nfin=1
Xnfet_4 node_3 in_2 vss    vss nfet l=lg nfin=1
Xnfet_5 out    s    vss    vss nfet l=lg nfin=1
.ends xor


* 2-input or gate
.subckt or2 in_1 in_2 out vdd vss
* Two-input NOR gate
Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
Xpfet_2 s      in_2 node_1 vdd pfet l=lg nfin=1
Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1

Xinv_size_1 s  out  vdd    vss inv_size_1
.ends or2


* 3-input or gate
.subckt or3 in_1 in_2 in_3 out vdd vss
* Three-input NOR gate
Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
Xpfet_2 node_2 in_2 node_1 vdd pfet l=lg nfin=1
Xpfet_3 s      in_3 node_2 vdd pfet l=lg nfin=1
Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
Xnfet_3 s      in_3 vss    vss nfet l=lg nfin=1

Xinv_size_1 s out vdd vss inv_size_1
.ends or3


* 4-input or gate
.subckt or4 in_1 in_2 in_3 in_4 out vdd vss
* Four-input NOR gate
Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
Xpfet_2 node_2 in_2 node_1 vdd pfet l=lg nfin=1
Xpfet_3 node_3 in_3 node_2 vdd pfet l=lg nfin=1
Xpfet_4 s      in_4 node_3 vdd pfet l=lg nfin=1
Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
Xnfet_3 s      in_3 vss    vss nfet l=lg nfin=1
Xnfet_4 s      in_4 vss    vss nfet l=lg nfin=1

Xinv_size_1 s out vdd vss inv_size_1
.ends or4