* size=1 inverter
.subckt inv_size_1 in out vdd vss
    Xpfet out in vdd vdd pfet l=lg nfin=1
    Xnfet out in vss vss nfet l=lg nfin=1
.ends inv_size_1

* size=2 inverter
.subckt inv_size_2 in out vdd vss
    Xpfet out in vdd vdd pfet l=lg nfin=2
    Xnfet out in vss vss nfet l=lg nfin=2
.ends inv_size_2

* size=4 inverter
.subckt inv_size_4 in out vdd vss
    Xpfet out in vdd vdd pfet l=lg nfin=4
    Xnfet out in vss vss nfet l=lg nfin=4
.ends inv_size_4

* size=8 inverter
.subckt inv_size_8 in out vdd vss
    Xpfet out in vdd vdd pfet l=lg nfin=8
    Xnfet out in vss vss nfet l=lg nfin=8
.ends inv_size_8

* customize size inverter
.subckt inv in out vdd vss p_size=1 n_size=1
    Xpfet out in vdd vdd pfet l=lg nfin=p_size
    Xnfet out in vss vss nfet l=lg nfin=n_size
.ends inv

* transmission gate
.subckt tg in out enable enable_n vdd vss 
    Xpfet out enable_n in vdd pfet l=lg nfin=1
    Xnfet out enable   in vss nfet l=lg nfin=1
.ends tg

* 2-input xor gate
.subckt xor in_1 in_2 out vdd vss
    * Two-input NOR gate
    Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 node_1 vdd pfet l=lg nfin=1
    Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
    * F = !(AB+S)
    Xpfet_3 node_2 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_4 node_2 in_2 vdd    vdd pfet l=lg nfin=1
    Xpfet_5 out    s    node_2 vdd pfet l=lg nfin=1
    Xnfet_3 out    in_1 node_3 vss nfet l=lg nfin=1
    Xnfet_4 node_3 in_2 vss    vss nfet l=lg nfin=1
    Xnfet_5 out    s    vss    vss nfet l=lg nfin=1
.ends xor

* 2-input or gate
.subckt or2 in_1 in_2 out vdd vss
    * Two-input NOR gate
    Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 node_1 vdd pfet l=lg nfin=1
    Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1

    Xinv_size_1 s  out  vdd    vss inv_size_1
.ends or2

* 3-input or gate
.subckt or3 in_1 in_2 in_3 out vdd vss
    * Three-input NOR gate
    Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 node_2 in_2 node_1 vdd pfet l=lg nfin=1
    Xpfet_3 s      in_3 node_2 vdd pfet l=lg nfin=1
    Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
    Xnfet_3 s      in_3 vss    vss nfet l=lg nfin=1

    Xinv_size_1 s out vdd vss inv_size_1
.ends or3

* 4-input or gate
.subckt or4 in_1 in_2 in_3 in_4 out vdd vss
    * Four-input NOR gate
    Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 node_2 in_2 node_1 vdd pfet l=lg nfin=1
    Xpfet_3 node_3 in_3 node_2 vdd pfet l=lg nfin=1
    Xpfet_4 s      in_4 node_3 vdd pfet l=lg nfin=1
    Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
    Xnfet_3 s      in_3 vss    vss nfet l=lg nfin=1
    Xnfet_4 s      in_4 vss    vss nfet l=lg nfin=1

    Xinv_size_1 s out vdd vss inv_size_1
.ends or4

* 5-input or gate
.subckt or5 in_1 in_2 in_3 in_4 in_5 out vdd vss
    * Four-input NOR gate
    Xpfet_1 node_1 in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 node_2 in_2 node_1 vdd pfet l=lg nfin=1
    Xpfet_3 node_3 in_3 node_2 vdd pfet l=lg nfin=1
    Xpfet_4 node_4 in_4 node_3 vdd pfet l=lg nfin=1
    Xpfet_5 s      in_5 node_4 vdd pfet l=lg nfin=1
    Xnfet_1 s      in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 vss    vss nfet l=lg nfin=1
    Xnfet_3 s      in_3 vss    vss nfet l=lg nfin=1
    Xnfet_4 s      in_4 vss    vss nfet l=lg nfin=1
    Xnfet_5 s      in_5 vss    vss nfet l=lg nfin=1

    Xinv_size_1 s out vdd vss inv_size_1
.ends or5

* 2-input and gate
.subckt and2 in_1 in_2 out vdd vss
    * Two-input AND gate
    Xpfet_1 s      in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 vdd    vdd pfet l=lg nfin=1
    Xnfet_1 node_1 in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 s      in_2 node_1 vss nfet l=lg nfin=1

    Xinv_size_1 s  out  vdd    vss inv_size_1
.ends and2

* 3-input and gate
.subckt and3 in_1 in_2 in_3 out vdd vss
    * Three-input AND gate
    Xpfet_1 s      in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 vdd    vdd pfet l=lg nfin=1
    Xpfet_3 s      in_3 vdd    vdd pfet l=lg nfin=1
    Xnfet_1 node_1 in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 node_2 in_2 node_1 vss nfet l=lg nfin=1
    Xnfet_3 s      in_3 node_2 vss nfet l=lg nfin=1

    Xinv_size_1 s  out  vdd    vss inv_size_1
.ends and3

* 4-input and gate
.subckt and4 in_1 in_2 in_3 in_4 out vdd vss
    * Three-input AND gate
    Xpfet_1 s      in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 vdd    vdd pfet l=lg nfin=1
    Xpfet_3 s      in_3 vdd    vdd pfet l=lg nfin=1
    Xpfet_4 s      in_4 vdd    vdd pfet l=lg nfin=1
    Xnfet_1 node_1 in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 node_2 in_2 node_1 vss nfet l=lg nfin=1
    Xnfet_3 node_3 in_3 node_2 vss nfet l=lg nfin=1
    Xnfet_4 s      in_4 node_3 vss nfet l=lg nfin=1

    Xinv_size_1 s  out  vdd    vss inv_size_1
.ends and4

* 5-input and gate
.subckt and5 in_1 in_2 in_3 in_4 in_5 out vdd vss
    * Three-input AND gate
    Xpfet_1 s      in_1 vdd    vdd pfet l=lg nfin=1
    Xpfet_2 s      in_2 vdd    vdd pfet l=lg nfin=1
    Xpfet_3 s      in_3 vdd    vdd pfet l=lg nfin=1
    Xpfet_4 s      in_4 vdd    vdd pfet l=lg nfin=1
    Xpfet_5 s      in_5 vdd    vdd pfet l=lg nfin=1
    Xnfet_1 node_1 in_1 vss    vss nfet l=lg nfin=1
    Xnfet_2 node_2 in_2 node_1 vss nfet l=lg nfin=1
    Xnfet_3 node_3 in_3 node_2 vss nfet l=lg nfin=1
    Xnfet_4 node_4 in_4 node_3 vss nfet l=lg nfin=1
    Xnfet_5 s      in_5 node_4 vss nfet l=lg nfin=1

    Xinv_size_1 s  out  vdd    vss inv_size_1
.ends and5